US04585780
2,3-Dihydroxypyridine (5.55 g) is refluxed with acetylbromide (10 ml) overnight. The reaction mixture is allowed to cool and water (10 ml) is added. The resulting suspension is extracted with methylene chloride and the methylene chloride solution is dried over Na2SO4 and evaporated. The resultant residue is recrystallised from petroleum ether (80°-100° C.) to give 1-acetyl-3-hydroxypyrid-2-one as white crystals (2.8 g), m.p. 140°-141° C.; νmax (nujol) 1680, 3120 cm-1 ; δ(d6DMSO), 2.2 (s, 3H), 6.1 (t, 1H), 6.65 (m, 1H), 7.2 (d, 1H)

reactant | 2,3-Dihydroxypyridine | 5.55 g | OC1=NC=CC=C1O | C5H5NO2
reactant | acetylbromide | 10 ml | C(C)(=O)Br | C2H3BrO
solvent | water | 10 ml | O | H2O
product | 1-acetyl-3-hydroxypyrid-2-one | 2.8 g | C(C)(=O)N1C(C(=CC=C1)O)=O | C7H7NO3
